US05192775
Stage A: 1-(Benzothiazol-2-yl)-4-Hydroxymethylpiperidine
30 g of 4-hydroxymethylpiperidine, 44 g of 2-chlorobenzothiazole and 72 g of potassium carbonate are reacted in 600 ml of acetonitrile under reflux overnight. After filtration and evaporation of the solvent, the residue is taken up in 200 ml of ethyl acetate and extracted with 1 N hydrochloric acid. The aqueous phase is made alkaline with caustic soda and extracted with dichloromethane. The expected product is obtained by drying and evaporation.

reactant | 4-hydroxymethylpiperidine | 30 g | OCC1CCNCC1 | C6H13NO
reactant | 2-chlorobenzothiazole | 44 g | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | potassium carbonate | 72 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 600 ml | C(C)#N | C2H3N
product | 1-(Benzothiazol-2-yl)-4-Hydroxymethylpiperidine | S1C(=NC2=C1C=CC=C2)N2CCC(CC2)CO | C13H16N2OS
